* Z:\mnt\design.r\spice\examples\3722-1.asc
XU1 MP_01 N026 N023 N031 N028 N029 N032 MP_02 N014 N022 N014 N008 N024 N022 N017 N025 N007 N012 N016 N015 N004 0 0 N030 LTC3722-1
M§Q1 IN N005 N009 N009 Si7852DP m=2
XU2 N001 0 N004 N009 N005 N002 LTC4440
C1 N002 N009 .22µ
D1 N001 N002 GSD2004W-V
M§Q2 N009 N018 N020 N020 Si7852DP m=2
Q3 N001 N015 N018 0 2N4401
Q4 0 N015 N018 0 2N4403
M§Q5 IN N006 N010 N010 Si7852DP m=2
XU3 N001 0 N007 N010 N006 N003 LTC4440
C2 N003 N010 .22µ
D2 N001 N003 GSD2004W-V
M§Q6 N010 N019 N020 N020 Si7852DP m=2
Q7 N001 N016 N019 0 2N4401
Q8 0 N016 N019 0 2N4403
R1 N020 0 10m
C3 N023 0 100p
R2 N023 N020 510
L1 N010 N009 50µ
L2 N013 N011 32µ
M§Q9 N013 N021 0 0 Si7852DP m=4
L4 N011 OUT 2.4µ
C4 OUT 0 1000µ
Q10 N001 N017 N021 0 2N4401
Q11 0 N017 N021 0 2N4403
M§Q12 N011 N027 0 0 Si7852DP m=4
Q13 N001 N025 N027 0 2N4401
Q14 0 N025 N027 0 2N4403
R3 OUT N029 3.15K
R4 N029 0 1K
C5 N031 N029 .15µ
V1 IN 0 48
C6 N030 0 180p
C7 N032 0 .001µ
R5 0 N024 30K
R6 N022 N026 60K
R7 N028 0 10K
R8 N001 N012 150
C8 N012 0 1µ
R9 0 N014 4.99K
R13 IN N008 182K
R14 N008 0 30.1K
R15 N022 N014 80.6K
V2 N001 0 12
Rload OUT 0 .25
L3 N013 OUT 2.4µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 .99
.tran 750u startup
.lib LTC3722-1.sub
.lib LTC4440.sub
.backanno
.end
